US04337256
Twenty grams of 1-isopropyl-5-dichloroacetylaminomethylisoquinoline was dissolved in 100 ml of conc. hydrochloric acid. The solution was heated with stirring for 1 hour. The reaction mixture was concentrated, made weakly alkaline with an aqueous solution of sodium hydroxide, and extracted with benzene to afford 8.7 g of 1-isopropyl-5-aminomethylisoquinoline as an oil.

reactant | 1-isopropyl-5-dichloroacetylaminomethylisoquinoline | Twenty grams | C(C)(C)C1=NC=CC2=C(C=CC=C12)CNC(C(Cl)Cl)=O | C15H16Cl2N2O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 1-isopropyl-5-aminomethylisoquinoline | 8.7 g | C(C)(C)C1=NC=CC2=C(C=CC=C12)CN | C13H16N2
